US08895224B2
To an ice-cooled solution of 24.04 g (0.4 mol) of ethylenediamine dissolved in 100 ml of methanol and 96 g of distilled water is added 104 g (0.52 mol) of 5.0 M hydrochloric acid. While the temperature is kept at −10° C., 61.65 g of methacrylic anhydride is added dropwise, and after completion of the dropwise addition, the mixture is stirred at −10° C. for 2 hours. Then, the mixture is extracted with ml of ethyl acetate and the aqueous layer is collected. To the collected aqueous layer is added 21 g (0.52 mol) of sodium hydroxide, and the precipitated white crystals are removed by filtration and extracted with 400 ml of acetonitrile. The acetonitrile solution is dried over 40 g of magnesium sulfate for 2 hours, and then acetonitrile is distilled off to give 14.4 g of N-aminoethyl methacrylamide (yield 28%).

reactant | ethylenediamine | 0.4 mol, 24.04 g | C(CN)N | C2H8N2
reactant | hydrochloric acid | 0.52 mol, 5.0 M, 104 g | Cl | ClH
reactant | methacrylic anhydride | 61.65 g | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
reactant | sodium hydroxide | 0.52 mol, 21 g | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 96 g | O | H2O
product | N-aminoethyl methacrylamide | 14.4 g, yield 28% | NCCNC(C(=C)C)=O | C6H12N2O
